US09023858B2
2-(1-methylethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
2-(Methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (100 mg) was suspended in tetrahydrofuran (4 ml), 2-propanol (77 μl) was added thereto, and then sodium hydride (25.0 mg) was added thereto under ice-cooling, and the mixture was stirred for 10 min, and then at room temperature for 15 min. To the reaction mixture was added 0.5M hydrochloric acid (3 ml), and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained white residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (35.4 mg) as a white solid.

reactant | 2-(Methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 100 mg | CS(=O)C=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O4S
reactant | 2-propanol | 77 μl | CC(C)O | C3H8O
reactant | sodium hydride | 25.0 mg | [H-].[Na+]
reactant | hydrochloric acid | 0.5M, 3 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-(1-methylethoxy)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 35.4 mg | CC(C)OC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O4
